* ADUM1250/ADUM1251 I2C Isolator SPICE Model
* Analog Devices
* Hot Swappable Dual I2C Isolators
* Model version: 1.0
* Date: 2024
*
* This model represents the ADUM1250/ADUM1251 I2C isolators
* ADUM1250: Two bidirectional channels
* ADUM1251: One bidirectional channel + one unidirectional channel
* Suitable for ngspice and KiCad simulation
*
* Pin Configuration (8-lead SOIC):
* Pin 1: VDD1 - Supply voltage for Side 1 (3.0V to 5.5V)
* Pin 2: SCL1 - Side 1 I2C clock (bidirectional, open-drain)
* Pin 3: SDA1 - Side 1 I2C data (bidirectional, open-drain)
* Pin 4: GND1 - Ground for Side 1
* Pin 5: GND2 - Ground for Side 2
* Pin 6: SDA2 - Side 2 I2C data (bidirectional, open-drain)
* Pin 7: SCL2 - Side 2 I2C clock (bidirectional, open-drain)
* Pin 8: VDD2 - Supply voltage for Side 2 (3.0V to 5.5V)
*
* Key Features:
* - Magnetic isolation: 2500V rms (UL 1577), 560V peak working voltage
* - Bidirectional I2C communication with open-drain outputs
* - 1000 kHz maximum operation
* - Hot swap circuitry prevents glitching during power-up
* - Side 1: Modified logic levels (500-700mV threshold, 600-900mV output low)
* - Side 2: Standard I2C compatible levels
* - Propagation delays: 82-340ns depending on direction and temperature

***************************************************************************
* Main Subcircuit: ADUM1250 (Two Bidirectional Channels)
***************************************************************************
.subckt ADUM1250 VDD1 SCL1 SDA1 GND1 GND2 SDA2 SCL2 VDD2
* Bidirectional I2C isolator with two channels

* SCL channel (bidirectional)
X_SCL SCL1 VDD1 GND1 SCL2 VDD2 GND2 ADUM1250_BICHAN

* SDA channel (bidirectional)
X_SDA SDA1 VDD1 GND1 SDA2 VDD2 GND2 ADUM1250_BICHAN

.ends ADUM1250

***************************************************************************
* Alternate Subcircuit: ADUM1251 (One Bidirectional + One Unidirectional)
***************************************************************************
.subckt ADUM1251 VDD1 SCL1 SDA1 GND1 GND2 SDA2 SCL2 VDD2
* I2C isolator with one bidirectional and one unidirectional channel
* SCL: Bidirectional
* SDA: Unidirectional (Side 1 to Side 2 only)

* SCL channel (bidirectional)
X_SCL SCL1 VDD1 GND1 SCL2 VDD2 GND2 ADUM1250_BICHAN

* SDA channel (unidirectional, Side 1 to Side 2 only)
X_SDA SDA1 VDD1 GND1 SDA2 VDD2 GND2 ADUM1250_UNICHAN

.ends ADUM1251

***************************************************************************
* Bidirectional Channel Subcircuit
***************************************************************************
.subckt ADUM1250_BICHAN IO1 VDD1 GND1 IO2 VDD2 GND2
* Bidirectional I2C channel with open-drain outputs on both sides

***************************************************************************
* Hot Swap Startup Logic
***************************************************************************
* Both supplies must be >2.5V and stable for >40us before enabling
* Simplified: Check if VDD1 and VDD2 are above threshold

* Side 1 supply monitor
B_POR1 N_POR1 GND1 V={IF(V(VDD1,GND1) > 2.5, V(VDD1,GND1), 0)}
R_POR1 N_POR1 GND1 1MEG

* Side 2 supply monitor
B_POR2 N_POR2 GND2 V={IF(V(VDD2,GND2) > 2.5, V(VDD2,GND2), 0)}
R_POR2 N_POR2 GND2 1MEG

* Startup delay (40us minimum)
C_STARTUP1 N_POR1 GND1 1u
C_STARTUP2 N_POR2 GND2 1u

* Enable signals (both supplies must be ready)
B_EN1 N_EN1 GND1 V={IF(V(N_POR1,GND1)>2.4 & V(N_POR2,GND2)>2.4, 1, 0)}
B_EN2 N_EN2 GND2 V={IF(V(N_POR1,GND1)>2.4 & V(N_POR2,GND2)>2.4, 1, 0)}
R_EN1 N_EN1 GND1 100k
R_EN2 N_EN2 GND2 100k

***************************************************************************
* Side 1 to Side 2 Signal Path
***************************************************************************
* Side 1 input detection
* Input threshold: 500-700mV (using 600mV nominal)
* Hysteresis: ~100mV
B_IN1_DET N_IN1_DET GND1 V={
+ IF(V(IO1,GND1) < 0.6, 0,
+   IF(V(IO1,GND1) > 0.7, V(VDD1,GND1),
+     V(N_IN1_DET,GND1)
+   )
+ )
+}
R_IN1_DET N_IN1_DET GND1 1MEG
C_IN1_DET N_IN1_DET GND1 10p

* Convert to digital signal
A_IN1_BUF [N_IN1_DET GND1] N_DIG1 BUF ref=0.5*VDD1 vhigh={VDD1}

* Isolation barrier crossing (Side 1 to Side 2 direction)
* Propagation delay: 82ns (typ @ 25°C) to 115ns (typ @ 125°C)
* Using 95ns nominal
A_DELAY_1TO2 [N_DIG1] N_ISO_1TO2 BUF td=95n tripdt=1n

* Side 2 output driver (open-drain)
* Output low voltage: 400mV max @ 3mA sink
* Current sink capability: 30mA
* Modeled as voltage-controlled switch with Ron
B_OUT2_CTRL N_OUT2_CTRL GND2 V={IF(V(N_EN2,GND2)>0.5 & V(N_ISO_1TO2)>0.5, 0, 1)}
R_OUT2_CTRL N_OUT2_CTRL GND2 1MEG

* Open-drain output (active low)
S_OUT2 IO2 N_OUT2_LOW N_OUT2_CTRL GND2 SW_ODRAIN
R_OUT2_LOW N_OUT2_LOW GND2 {400m/30m}
* Output capacitance
C_OUT2 IO2 GND2 10p

***************************************************************************
* Side 2 to Side 1 Signal Path
***************************************************************************
* Side 2 input detection
* Standard I2C levels: VIL=0.3*VDD2, VIH=0.7*VDD2
B_IN2_DET N_IN2_DET GND2 V={
+ IF(V(IO2,GND2) < 0.3*V(VDD2,GND2), 0,
+   IF(V(IO2,GND2) > 0.7*V(VDD2,GND2), V(VDD2,GND2),
+     V(N_IN2_DET,GND2)
+   )
+ )
+}
R_IN2_DET N_IN2_DET GND2 1MEG
C_IN2_DET N_IN2_DET GND2 10p

* Convert to digital signal
A_IN2_BUF [N_IN2_DET GND2] N_DIG2 BUF ref={0.5*VDD2} vhigh={VDD2}

* Isolation barrier crossing (Side 2 to Side 1 direction)
* Propagation delay: 310ns (typ @ 25°C) to 340ns (typ @ 125°C)
* Using 325ns nominal
A_DELAY_2TO1 [N_DIG2] N_ISO_2TO1 BUF td=325n tripdt=1n

* Side 1 output driver (open-drain)
* Output low voltage: 600-900mV max @ 3mA sink (using 750mV nominal)
* Current sink capability: 3mA
B_OUT1_CTRL N_OUT1_CTRL GND1 V={IF(V(N_EN1,GND1)>0.5 & V(N_ISO_2TO1)>0.5, 0, 1)}
R_OUT1_CTRL N_OUT1_CTRL GND1 1MEG

* Open-drain output (active low)
S_OUT1 IO1 N_OUT1_LOW N_OUT1_CTRL GND1 SW_ODRAIN
R_OUT1_LOW N_OUT1_LOW GND1 {750m/3m}
* Output capacitance
C_OUT1 IO1 GND1 10p

***************************************************************************
* Supply Current Consumption
***************************************************************************
* Side 1: 1.7mA typ @ 3.3V, 2.3mA typ @ 5V (no load)
B_IDD1 VDD1 N_IDD1 I={1.7m + (V(VDD1,GND1)-3.3)*0.3m}
R_IDD1 N_IDD1 GND1 1

* Side 2: 2.1mA typ @ 3.3V, 2.8mA typ @ 5V (no load)
B_IDD2 VDD2 N_IDD2 I={2.1m + (V(VDD2,GND2)-3.3)*0.4m}
R_IDD2 N_IDD2 GND2 1

.ends ADUM1250_BICHAN

***************************************************************************
* Unidirectional Channel Subcircuit (Side 1 to Side 2 only)
***************************************************************************
.subckt ADUM1250_UNICHAN IO1 VDD1 GND1 IO2 VDD2 GND2
* Unidirectional I2C channel (for ADUM1251 SDA)

***************************************************************************
* Hot Swap Startup Logic
***************************************************************************
* Side 1 supply monitor
B_POR1 N_POR1 GND1 V={IF(V(VDD1,GND1) > 2.5, V(VDD1,GND1), 0)}
R_POR1 N_POR1 GND1 1MEG
C_STARTUP1 N_POR1 GND1 1u

* Side 2 supply monitor
B_POR2 N_POR2 GND2 V={IF(V(VDD2,GND2) > 2.5, V(VDD2,GND2), 0)}
R_POR2 N_POR2 GND2 1MEG
C_STARTUP2 N_POR2 GND2 1u

* Enable signal for Side 2 output
B_EN2 N_EN2 GND2 V={IF(V(N_POR1,GND1)>2.4 & V(N_POR2,GND2)>2.4, 1, 0)}
R_EN2 N_EN2 GND2 100k

***************************************************************************
* Side 1 to Side 2 Signal Path (Unidirectional)
***************************************************************************
* Side 1 input detection (500-700mV threshold)
B_IN1_DET N_IN1_DET GND1 V={
+ IF(V(IO1,GND1) < 0.6, 0,
+   IF(V(IO1,GND1) > 0.7, V(VDD1,GND1),
+     V(N_IN1_DET,GND1)
+   )
+ )
+}
R_IN1_DET N_IN1_DET GND1 1MEG
C_IN1_DET N_IN1_DET GND1 10p

* Convert to digital signal
A_IN1_BUF [N_IN1_DET GND1] N_DIG1 BUF ref={0.5*VDD1} vhigh={VDD1}

* Isolation barrier crossing
* Propagation delay: 82ns nominal
A_DELAY_1TO2 [N_DIG1] N_ISO_1TO2 BUF td=82n tripdt=1n

* Side 2 output driver (open-drain)
B_OUT2_CTRL N_OUT2_CTRL GND2 V={IF(V(N_EN2,GND2)>0.5 & V(N_ISO_1TO2)>0.5, 0, 1)}
R_OUT2_CTRL N_OUT2_CTRL GND2 1MEG

* Open-drain output
S_OUT2 IO2 N_OUT2_LOW N_OUT2_CTRL GND2 SW_ODRAIN
R_OUT2_LOW N_OUT2_LOW GND2 {400m/30m}
C_OUT2 IO2 GND2 10p

* Side 1 has no output driver (input only)
* Just input capacitance
C_IN1 IO1 GND1 10p

***************************************************************************
* Supply Current Consumption
***************************************************************************
* Slightly lower than bidirectional channel
B_IDD1 VDD1 N_IDD1 I={1.5m + (V(VDD1,GND1)-3.3)*0.3m}
R_IDD1 N_IDD1 GND1 1

B_IDD2 VDD2 N_IDD2 I={1.9m + (V(VDD2,GND2)-3.3)*0.4m}
R_IDD2 N_IDD2 GND2 1

.ends ADUM1250_UNICHAN

***************************************************************************
* Device Models
***************************************************************************
* Open-drain output switch
.model SW_ODRAIN VSWITCH (RON=1 ROFF=100MEG VON=0.7 VOFF=0.3)

***************************************************************************
* Additional Notes for Simulation
***************************************************************************
* 1. This is a behavioral model optimized for I2C circuit simulation
* 2. Key characteristics modeled:
*    - Bidirectional signal flow with asymmetric propagation delays
*    - Open-drain outputs requiring external pull-up resistors
*    - Different logic levels on Side 1 vs Side 2
*    - Hot swap startup sequencing
*    - Supply current consumption
* 3. External components required:
*    - Pull-up resistors on all I2C lines (both sides)
*    - Bypass capacitors: 0.1uF + 10uF on VDD1 and VDD2
* 4. Not modeled in detail:
*    - Rise/fall time dependencies on external pull-up values
*    - Common-mode transient immunity (CMTI) effects
*    - Detailed startup glitch suppression mechanisms
*    - Temperature-dependent timing variations
* 5. Typical pull-up resistor values:
*    - Side 1: 2.2kΩ to 10kΩ (limited by 3mA sink capability)
*    - Side 2: 1kΩ to 10kΩ (30mA sink allows lower values)
*    - For 100kHz: 4.7kΩ typical
*    - For 400kHz: 2.2kΩ typical
*    - For 1MHz: 1kΩ to 2.2kΩ
* 6. Maximum capacitive loading:
*    - 400pF per I2C bus specification
*    - Consider both sides when calculating total bus capacitance
* 7. I2C Compliance:
*    - Side 2 is fully I2C compliant
*    - Side 1 has modified levels (compatible but not compliant)
*    - Do not use Side 1 levels for standard I2C bus
***************************************************************************
