* ADUM1250/ADUM1251 I2C Isolator SPICE Model
* Analog Devices
* Hot Swappable Dual I2C Isolators
* Model version: 1.3 (Fixed syntax for ngspice)
* Date: 2024
*
* This model represents the ADUM1250/ADUM1251 I2C isolators
* Suitable for ngspice and KiCad simulation

***************************************************************************
* Main Subcircuit: ADUM1250 (Two Bidirectional Channels)
***************************************************************************
.subckt ADUM1250 VDD1 SCL1 SDA1 GND1 GND2 SDA2 SCL2 VDD2
X_SCL SCL1 VDD1 GND1 SCL2 VDD2 GND2 ADUM1250_BICHAN
X_SDA SDA1 VDD1 GND1 SDA2 VDD2 GND2 ADUM1250_BICHAN
.ends ADUM1250

***************************************************************************
* Alternate Subcircuit: ADUM1251
***************************************************************************
.subckt ADUM1251 VDD1 SCL1 SDA1 GND1 GND2 SDA2 SCL2 VDD2
X_SCL SCL1 VDD1 GND1 SCL2 VDD2 GND2 ADUM1250_BICHAN
X_SDA SDA1 VDD1 GND1 SDA2 VDD2 GND2 ADUM1250_UNICHAN
.ends ADUM1251

***************************************************************************
* Bidirectional Channel Subcircuit
***************************************************************************
.subckt ADUM1250_BICHAN IO1 VDD1 GND1 IO2 VDD2 GND2

* Hot Swap Startup Logic
B_POR1 N_POR1 GND1 V={V(VDD1,GND1) > 2.5 ? V(VDD1,GND1) : 0}
R_POR1 N_POR1 GND1 1MEG
B_POR2 N_POR2 GND2 V={V(VDD2,GND2) > 2.5 ? V(VDD2,GND2) : 0}
R_POR2 N_POR2 GND2 1MEG
C_STARTUP1 N_POR1 GND1 1u
C_STARTUP2 N_POR2 GND2 1u
* Use multiplication for logical AND
B_EN1 N_EN1 GND1 V={ (V(N_POR1,GND1)>2.4) * (V(N_POR2,GND2)>2.4) }
B_EN2 N_EN2 GND2 V={ (V(N_POR1,GND1)>2.4) * (V(N_POR2,GND2)>2.4) }
R_EN1 N_EN1 GND1 100k
R_EN2 N_EN2 GND2 100k

* Side 1 to Side 2 Signal Path
* Input detection with hysteresis
* V(Self) used for latching state
B_IN1_DET N_IN1_DET GND1 V={V(IO1,GND1) < 0.6 ? 0 : (V(IO1,GND1) > 0.7 ? 3.3 : V(N_IN1_DET,GND1))}
R_IN1_DET N_IN1_DET GND1 1MEG
C_IN1_DET N_IN1_DET GND1 10p

* Isolation Barrier (Transmission Line Delay)
T_DELAY_1TO2 N_IN1_DET GND1 N_ISO_1TO2 GND2 Z0=1k TD=95n
R_TERM_1TO2 N_ISO_1TO2 GND2 1k

* Output Driver Side 2
* Logic: If Enabled AND InputHigh, Output OFF (Open Drain High-Z)
* If Enabled AND InputLow, Output ON (Low)
* N_ISO_1TO2 is high when IO1 is high. So if high, output switch OFF.
* If low, output switch ON.
* B_OUT2_CTRL drives switch control. 1 = ON (Low), 0 = OFF (High-Z).
* So if N_ISO > 1.5, we want OFF (0). If N_ISO < 1.5, we want ON (1).
B_OUT2_CTRL N_OUT2_CTRL GND2 V={ (V(N_EN2,GND2)>0.5) * (V(N_ISO_1TO2,GND2)<1.5) ? 1 : 0 }
R_OUT2_CTRL N_OUT2_CTRL GND2 1MEG
S_OUT2 IO2 N_OUT2_LOW N_OUT2_CTRL GND2 SW_ODRAIN
R_OUT2_LOW N_OUT2_LOW GND2 13.3
C_OUT2 IO2 GND2 10p

* Side 2 to Side 1 Signal Path
B_IN2_DET N_IN2_DET GND2 V={V(IO2,GND2) < 0.3*V(VDD2,GND2) ? 0 : (V(IO2,GND2) > 0.7*V(VDD2,GND2) ? 3.3 : V(N_IN2_DET,GND2))}
R_IN2_DET N_IN2_DET GND2 1MEG
C_IN2_DET N_IN2_DET GND2 10p

* Isolation Barrier
T_DELAY_2TO1 N_IN2_DET GND2 N_ISO_2TO1 GND1 Z0=1k TD=325n
R_TERM_2TO1 N_ISO_2TO1 GND1 1k

* Output Driver Side 1
B_OUT1_CTRL N_OUT1_CTRL GND1 V={ (V(N_EN1,GND1)>0.5) * (V(N_ISO_2TO1,GND1)<1.5) ? 1 : 0 }
R_OUT1_CTRL N_OUT1_CTRL GND1 1MEG
S_OUT1 IO1 N_OUT1_LOW N_OUT1_CTRL GND1 SW_ODRAIN
R_OUT1_LOW N_OUT1_LOW GND1 250
C_OUT1 IO1 GND1 10p

* Supply Current
B_IDD1 VDD1 N_IDD1 I={1.7m + (V(VDD1,GND1)-3.3)*0.3m}
R_IDD1 N_IDD1 GND1 1
B_IDD2 VDD2 N_IDD2 I={2.1m + (V(VDD2,GND2)-3.3)*0.4m}
R_IDD2 N_IDD2 GND2 1

.ends ADUM1250_BICHAN

***************************************************************************
* Unidirectional Channel Subcircuit
***************************************************************************
.subckt ADUM1250_UNICHAN IO1 VDD1 GND1 IO2 VDD2 GND2

* Hot Swap (simplified for unichan)
B_POR1 N_POR1 GND1 V={V(VDD1,GND1) > 2.5 ? V(VDD1,GND1) : 0}
R_POR1 N_POR1 GND1 1MEG
B_POR2 N_POR2 GND2 V={V(VDD2,GND2) > 2.5 ? V(VDD2,GND2) : 0}
R_POR2 N_POR2 GND2 1MEG
C_STARTUP1 N_POR1 GND1 1u
C_STARTUP2 N_POR2 GND2 1u
B_EN2 N_EN2 GND2 V={ (V(N_POR1,GND1)>2.4) * (V(N_POR2,GND2)>2.4) }
R_EN2 N_EN2 GND2 100k

* Path 1->2
B_IN1_DET N_IN1_DET GND1 V={V(IO1,GND1) < 0.6 ? 0 : (V(IO1,GND1) > 0.7 ? 3.3 : V(N_IN1_DET,GND1))}
R_IN1_DET N_IN1_DET GND1 1MEG
C_IN1_DET N_IN1_DET GND1 10p

T_DELAY_1TO2 N_IN1_DET GND1 N_ISO_1TO2 GND2 Z0=1k TD=82n
R_TERM_1TO2 N_ISO_1TO2 GND2 1k

B_OUT2_CTRL N_OUT2_CTRL GND2 V={ (V(N_EN2,GND2)>0.5) * (V(N_ISO_1TO2,GND2)<1.5) ? 1 : 0 }
R_OUT2_CTRL N_OUT2_CTRL GND2 1MEG
S_OUT2 IO2 N_OUT2_LOW N_OUT2_CTRL GND2 SW_ODRAIN
R_OUT2_LOW N_OUT2_LOW GND2 13.3
C_OUT2 IO2 GND2 10p
C_IN1 IO1 GND1 10p

* Current
B_IDD1 VDD1 N_IDD1 I={1.5m + (V(VDD1,GND1)-3.3)*0.3m}
R_IDD1 N_IDD1 GND1 1
B_IDD2 VDD2 N_IDD2 I={1.9m + (V(VDD2,GND2)-3.3)*0.4m}
R_IDD2 N_IDD2 GND2 1

.ends ADUM1250_UNICHAN

* Models
.model SW_ODRAIN SW(Ron=1 Roff=100Meg Vt=0.5 Vh=0.2)